datasets/10k__Tet_Int.csv
SMILES Labelled
"CN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CCCCCC)[O-:10])CCCCCC>>CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CCCCCC)CCCCCC 10=20;20,21=21"
"CC[S:10][H].C[O+:21]=[C:20]([S][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21]C)([S][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([K])C(CC)/C([H])=C([H])\C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C([H])=C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(CC)C(C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(CC)C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)C)[H])CCCCCC)[O-:10])CC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)[H])CCCCCC)CC 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)CC.[O-:21][H]>>CCC1C(C(O[C:20](N1[H])([O-:10])[O:21][H])C1=CC=CC=C1)CC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C)[O]C(C7=CC=CC=C7)C(CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O]C(C7=CC=CC=C7)C([H])[O]1 10=20;20,21=21"
"[OH:10]C([H])/C(O)=C([C:20]([H])=[OH+:21])/[H]>>[OH:21][C:20]1([H])[OH+:10]C([H])C(O)=C1[H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21][H])[O]C(C)C([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C(C)[CH](CC)[NH]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](CC)[CH](C)C(CC)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[Na][O+:21]([C:20]([O-:10])(OCCCCCC)OCCCCCC)C>>[Na][O:21]C.[C:20](=[O:10])(OCCCCCC)OCCCCCC 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])OCCCCCC)CCCCCC)[H]>>C(C([O-:21])[H])(C(O[C:20](=[O:10])OCCCCCC)CCCCCC)[H] 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O]C(CC)C([H])[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[O]C(CC)C([H])[S]1 10=20;20,21=21"
"C[O:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[S][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[S][H] 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(C)[O]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C)[O][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(CC)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C(C)C([H])C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C([H])C(C)C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"[O:10]([Na])C([H])C(C)C([H])C(O)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(O)C([H])C(C)C([H])[O+:10]1([Na]) 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)C)CC)[H])[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])C)CC)[H])C 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.[H][S:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[NH:10](C)C(C)C(C)N([C:20]([H])=[O:21])[H]>>[O-:21][C:20]1([H])[NH+:10](C)C(C)C(C)N1[H] 10=20;20,21=21"
"[H][S:10]C([H])C(C)C(CC)[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(CC)[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCCCCCC)CCCCCC)C>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCCCCCC)CCCCCC)C 10=20;20,21=21"
"CC[O:10][H].C[NH+:21]=[C:20]([NH]CC)[NH]C.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21]C)([NH]CC)[NH]C 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C([H])[NH][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])CC)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)CCCCCC.[O-:21][H] 10=20;20,21=21"
